US04186199
A slurry of 1-(2-aminophenyl)indoline hydrochloride (41.44 g) in CH2Cl2 (400 ml) under N2 at 0° C. is treated dropwise with a solution of triethylamine (2.2 equivalents) in CH2Cl2 (80 ml) and then with a solution of cyclobutylcarbonyl chloride (20 g) in CH2Cl2 (50 ml). After warming to room temperature, the product is poured into water (300 ml). The organic layer is washed with 4 N HCl, 2.5 N NaOH, water, dried (Na2SO4), filtered, and concentrated to yield 1-[2-(cyclobutylcarbonyl)aminophenyl]indoline, m.p. 81°-83.5° C.

reactant | 1-(2-aminophenyl)indoline hydrochloride | 41.44 g | Cl.NC1=C(C=CC=C1)N1CCC2=CC=CC=C12
reactant | triethylamine | 2.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | cyclobutylcarbonyl chloride | 20 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | water | 300 ml | O | H2O
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(cyclobutylcarbonyl)aminophenyl]indoline | C1(CCC1)C(=O)NC1=C(C=CC=C1)N1CCC2=CC=CC=C12 | C19H20N2O
